US08912227B1
A solution of ethyl 3-(4-((3-bromo-1-(4-chlorophenyl)-1H-pyrrol-2-yl)methoxy)-2,3-difluorophenyl)propanoate (90 mg, 0.18 mmol, 1 eq), zinc cyanide (64 mg, 0.54 mmol, 3 eq), 1,1′-bis(diphenylphosphino)ferrocene (10 mg, 0.018 mmol, 0.1 eq), Pd2(dba)3 (16.5 mg, 0.018 mmol, 0.1 eq) in DMF (1.4 mL) under N2 was heated at 130° C. overnight in a vial. To the resulting mixture was added water, the aqueous was extracted with DCM, dried over MgSO4 and concentrated. The resulting residue was purified by flash chromatography (12 g column) eluting with 10 to 30% EtOAc/heptane to yield ethyl 3-(4-((1-(4-chlorophenyl)-3-cyano-1H-pyrrol-2-yl)methoxy)-2,3-difluorophenyl)propanoate.

reactant | ethyl 3-(4-((3-bromo-1-(4-chlorophenyl)-1H-pyrrol-2-yl)methoxy)-2,3-difluorophenyl)propanoate | 0.18 mmol, 90 mg, 1 eq | BrC1=C(N(C=C1)C1=CC=C(C=C1)Cl)COC1=C(C(=C(C=C1)CCC(=O)OCC)F)F | C22H19BrClF2NO3
reactant | water | O | H2O
reactant | DMF | 1.4 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.54 mmol, 64 mg, 3 eq | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.018 mmol, 10 mg, 0.1 eq | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Pd2(dba)3 | 0.018 mmol, 16.5 mg, 0.1 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 3-(4-((1-(4-chlorophenyl)-3-cyano-1H-pyrrol-2-yl)methoxy)-2,3-difluorophenyl)propanoate | ClC1=CC=C(C=C1)N1C(=C(C=C1)C#N)COC1=C(C(=C(C=C1)CCC(=O)OCC)F)F | C23H19ClF2N2O3
